US05512400
In 500 parts of tetrahydrofuran were dissolved 23.8 parts of 4- 5-(5H-dibenzo b,f!azepinyl)!benzaldehyde and 26.5 parts of N,N-diphenylhydrazine hydrochloride. This solution was stirred at room temperature for 3 hours. After completion of the reaction, the reaction mixture was poured into 2,000 parts of water, and the crystals precipitated were taken out by filtration. The crystals obtained were washed with ethyl alcohol and then dried at reduced pressure. The crystals dried were dissolved in 100 parts of ethyl acetate, and this solution was poured into 1,000 parts of methyl alcohol to recrystallize the reaction product. Thus, 28.9 parts (yield, 77.9%) of 4- 5-(5H-dibenzo b,f!azepinyl)!benzaldehyde N,N-diphenylhydrazone was obtained. This compound had a melting point of 178.0° to 179.0° C. The results of elemental analysis are shown in Table 4 below, together with calculated values for C33H25N3.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | N,N-diphenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzaldehyde N,N-diphenylhydrazone | C1(=CC=CC=C1)N(N=CC1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2
